US09125901B2
2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 62 mg, 0.16 mmol) was added to a solution of 4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzoic acid (40 mg, 0.13 mmol), tert-butyl 2-aminophenylcarbamate (34 mg, 0.16 mmol) and N,N-diisopropylethylamine (0.047 mL, 0.27 mmol. The reaction may be stirred at room temperature for an appropriate time period such as 2 hrs and quenched by water. The mixture may be extracted with any appropriate agent, such as ethyl acetate, and concentrated. The residue may be purified by any appropriate method, including Biotage column chromatography to give tert-butyl 2-(4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzamido)phenylcarbamate (58 mg)

reactant | 2-(7-Aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.16 mmol, 62 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzoic acid | 0.13 mmol, 40 mg | C(C)(C)N1C(=NC2=C1C=CC=C2)NC2=CC=C(C(=O)O)C=C2 | C17H17N3O2
reactant | tert-butyl 2-aminophenylcarbamate | 0.16 mmol, 34 mg | NC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
product | tert-butyl 2-(4-(1-isopropyl-1H-benzo[d]imidazol-2-ylamino)benzamido)phenylcarbamate | 58 mg | C(C)(C)N1C(=NC2=C1C=CC=C2)NC2=CC=C(C(=O)NC1=C(C=CC=C1)NC(OC(C)(C)C)=O)C=C2 | C28H31N5O3
